US07485634B2
Preparation of 1,1-ethylenedioxy-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
A mixture of 3-(4-fluorobenzoyl)-1-oxo-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester (39 mg, 10.1 mmol) and TsOH (10 mg) and ethylene glycol (0.2 mL) in toluene (10 mL) was heated to reflux overnight under nitrogen. After cooling, the reaction was diluted with DCM. It was then washed with saturated aqueous NaHCO3 and water and dried over MgSO4. Evaporation of solvent gave a crude product, which was purified by column chromatography on silica gel eluted with MeOH-DCM (2:98) to give the title compound (7.5 mg); 1H-NMR (CDCl3): δ 9.68 (1H, s), 8.24 (1H, d), 7.08 (2H, m), 7.57 (1H, s), 7.41 (2H, m), 7.12 (2H, m), 4.77 (2H, m), 4.55 (2H, m), 4.46 (2H, q), 1.46 (3H, t). MS (ES): 437 (MH+).

reactant | 3-(4-fluorobenzoyl)-1-oxo-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 10.1 mmol, 39 mg | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC=CC21)=O)C(C2=CC=C(C=C2)F)=O | C22H17FN2O4
reactant | TsOH | 10 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | ethylene glycol | 0.2 mL | C(CO)O | C2H6O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,1-ethylenedioxy-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 7.5 mg | C(C)OC(=O)C1=CN(CC2(C3=C1NC=1C=CC=CC31)OCCO2)C(C2=CC=C(C=C2)F)=O | C24H21FN2O5
